US08647799B2
Bisphenol A:
ADECASTAB LA-57 (tetrakis(2,2,6,6-tetramethyl-4-piperidyl)-butane-1,2,3,4-butanetetracarboxylate; the same as used in preparation of De-coloring particles A) 5%

reactant | LA-57 | CC1(CC(CC(N1)(C)C)OC(=O)CC(C(CC(=O)OC2CC(NC(C2)(C)C)(C)C)C(=O)OC3CC(NC(C3)(C)C)(C)C)C(=O)OC4CC(NC(C4)(C)C)(C)C)C | C44H78N4O8
reactant | tetrakis(2,2,6,6-tetramethyl-4-piperidyl)-butane 1,2,3,4-butanetetracarboxylate | CC1(NC(CC(C1)C(C(C)(C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C)(C)C1CC(NC(C1)(C)C)(C)C)(C)C)C.C(C(C(CC(=O)[O-])C(=O)[O-])C(=O)[O-])C(=O)[O-]
product | Bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
